US07220862B2
(±)-2-Benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester
A flask was charged with 2-benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-acrylic acid methyl ester (0.50 g, 1.2 mmol), Wilkinson's catalyst (200 mg, 0.2 equiv), methanol (5 mL), and toluene (3 mL). The flask was flushed with nitrogen, then hydrogen, heated to 35° C., and allowed to stir under an atmosphere of hydrogen for 4 days. The reaction was flushed with nitrogen, diluted with methanol, filtered, and concentrated to afford the crude product which was purified by column chromatography to give 145 mg (29%).

reactant | 2-benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-acrylic acid methyl ester | 1.2 mmol, 0.50 g | COC(C(=CC=1C=NC(=CC1)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C24H22N2O5
reactant | methanol | 5 mL | CO | CH4O
catalyst | Wilkinson's catalyst | 200 mg, 0.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-2-Benzyloxycarbonylamino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester | COC(C(CC=1C=NC(=CC1)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C24H24N2O5
